US03953501
N-(3-METHOXYCARBONYL-5-NITROBENZOYL)-GLYCINE METHYLAMIDE (Ia)
Process 2: 8.5 g. (0.03 mole) of N-(3-metoxycarbonyl-5-nitrobenzoyl-glycine (VIa) dissolved in 130 ml. of absolute tetrahydrofuran, is cooled to -15° C., after the addition of 4.2 ml. of triethylamine, and mixed under agitation with 3 ml. of the ethyl ester of chlorocarbonic acid. The reaction mixture is agitated for about 10 minutes at -10° to -5° C., and a solution of 2.8 ml. of methylamine in 20 ml. of absolute tetrahydrofuran, cooled to -15° C., is gradually added thereto dropwise under agitation. Then, the mixture is stirred for another 30 minutes at -15° C. and subsequently overnight at room temperature; the triethylamine hydrochloride is filtered off, the filtrate concentrated under vacuum, and the residue recrystallized from acetonitrile; yield 4.6 g. m.p. 173°-174° C.

reactant | 3-metoxycarbonyl-5-nitrobenzoyl-glycine | COC(=O)C=1C=C(C(=O)NCC(=O)O)C=C(C1)[N+](=O)[O-] | C11H10N2O7
reactant | chlorocarbonic acid | C(O)(=O)Cl | CHClO2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(3-METHOXYCARBONYL-5-NITROBENZOYL)-GLYCINE METHYLAMIDE | CNC(CNC(C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)OC)=O)=O | C12H13N3O6
